US07230011B2
7-Methyl-3-(1-methylpiperdin-4-yl)-1-phenethyl-1H-indol-5-ol
By a method similar to Preparation 8, using 5-methoxy-7-methyl-3-(1-methylpiperdin-4-yl)-1-phenethy-1H-indole (0.288 g) and pyridine hydrochloride (25 g) to afford 0.143 (52%) of the title compound: mass spectrum (ion spray): m/z=349 (M+1); Calculated for C23H28N2O-0.3H2O: C, 78.06; H, 8.15; N, 7.92. Found: C, 78.24; H, 8.18; N, 8.11.

reactant | 5-methoxy-7-methyl-3-(1-methylpiperdin-4-yl)-1-phenethy-1H-indole | 0.288 g | COC=1C=C2C(=CN(C2=C(C1)C)CCC1=CC=CC=C1)C1CCN(CC1)C | C24H30N2O
reactant | pyridine hydrochloride | 25 g | Cl.N1=CC=CC=C1
product | 7-Methyl-3-(1-methylpiperdin-4-yl)-1-phenethyl-1H-indol-5-ol | CC=1C=C(C=C2C(=CN(C12)CCC1=CC=CC=C1)C1CCN(CC1)C)O | C23H28N2O
